US04233445
7-(4-Pyridinyl)-7H-pyrrolo-[3,2-f]quinazoline-1,3-diamine
A solution of 7.97 g. of 7H-pyrrolo[3,2-f]quinazoline-1,3-diamine in 500 ml. of dry dimethylformamide is stirred, under nitrogen, with 4.61 g. ca. 50% sodium hydride-mineral oil dispersion for 1.5 hours. Addition of 8.95 g. of p-bromopyridine hydrochloride is followed by heating of the reaction mixture at 110° C. for 5 hours. Glacial acetic acid (10 ml) is added and the solvent is removed in vacuo. The residue is stirred thoroughly with a mixture of excess aqueous potassium carbonate solution and 100 ml. of 1 N sodium hydroxide solution, collected, washed with water and dried. Three crystallizations from methanol and one from dimethylformamide and drying afford 0.61 g. of the title product, m.p. 328.5°-329.5° C., NMR (dDMSO): δ 7.16 (doublet, J=8 Hz, 5H), 7.22 (doublet, J=3 Hz, 9H), 7.88 (doublet, J=3 Hz, 8H), 7.96 (doublet, J=8 cps, 6H) p.p.m λmax95%EtOH 255 mμ (22,900) and 297 mμ (22,100).

reactant | 7H-pyrrolo[3,2-f]quinazoline-1,3-diamine | C=1(N=C(N=C2C=CC3=C(C12)C=CN3)N)N | C10H9N5
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | p-bromopyridine hydrochloride | Cl.BrC1=CC=NC=C1
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 7-(4-Pyridinyl)-7H-pyrrolo-[3,2-f]quinazoline-1,3-diamine | N1=CC=C(C=C1)N1C=CC=2C3=C(N=C(N=C3C=CC21)N)N | C15H12N6
